US04277498
EXAMPLE 9--Preparation of (±)-2-Amino-1-cyclohexylpropane
To a suspension of (±)-N-(2-cyclohexyl-1-methylethyl)-2-phthalimidoacetamide (12.0 g, 36.7mmol) in ethanol (180 ml) was added hydrazine hydrate (2.05 g, 40.3 mmol) and the mixture heated under reflux for 1.5 hours. After cooling and standing at 0° for 24 hours, the slurry was filtered and the residue washed with petrol (40°-60°). The combined filtrateswere evaporated to dryness and the oily residue triturated with petrol (3×100 ml). The combined extracts were evaporated to dryness to givea colourless oil. The oil was dissolved in ether (50 ml) and the solution added to a warm solution of fumaric acid (2.7 g) in ethanol (50 ml). On standing, a colourless solid was deposited, m.p. 132°-134° C.

reactant | (±)-N-(2-cyclohexyl-1-methylethyl)-2-phthalimidoacetamide | 36.7mmol, 12.0 g | C1(CCCCC1)CC(C)NC(CN1C(C=2C(C1=O)=CC=CC2)=O)=O | C19H24N2O3
reactant | hydrazine hydrate | 40.3 mmol, 2.05 g | O.NN
solvent | ethanol | 180 ml | C(C)O | C2H6O
product | (±)-2-Amino-1-cyclohexylpropane | NC(CC1CCCCC1)C | C9H19N
